US04044129
According to the same procedure as described in the preparative Example 4, the reaction product of 8-bromo-1-ethyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine with 6 N-hydrochloric acid-sodium nitrite is chlorinated with thionyl chloride to give 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-chloromethyl-5-ethyl-4H-1,2,4-triazole as crystals. Recrystallization from acetone gives pale yellow prisms, melting at 199° to 201° (decomposition).

reactant | 8-bromo-1-ethyl-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=CC2=C(C(=NCC=3N2C(=NN3)CC)C3=NC=CC=C3)C1 | C17H14BrN5
reactant | hydrochloric acid sodium nitrite | Cl.N(=O)[O-].[Na+]
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-[4-bromo-2-(2-pyridinecarbonyl)phenyl]-3-chloromethyl-5-ethyl-4H-1,2,4-triazole | BrC1=CC(=C(C=C1)N1C(=NN=C1CC)CCl)C(=O)C1=NC=CC=C1 | C17H14BrClN4O
